US09328096B2
Ethyl 5-(2,4-dichloro-5-(pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate
To the solution of ethyl 5-(2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate in dioxane (Preparation 4, 675 mg, 1.27 mmol) was added water (2.2 mL), 2-bromopyridine (302 mg, 1.91 mmol) and K2CO3 (352 mg, 2.546 mmol). The reaction was degassed for 10 minutes before the addition of tetrakis(triphenylphosphine)palladium(0) (147 mg, 0.127 mmol) and heating at reflux for 2 hours. The reaction was cooled and concentrated in vacuo. The residue was purified using silica gel chromatography eluting with 20-50% EtOAc in heptanes to afford the title compound (128 mg, 21%).

reactant | ethyl 5-(2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C | C25H26BCl2N3O5
reactant | dioxane | 1.27 mmol, 675 mg | O1CCOCC1 | C4H8O2
reactant | 2-bromopyridine | 1.91 mmol, 302 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | K2CO3 | 2.546 mmol, 352 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.127 mmol, 147 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2.2 mL | O | H2O
product | Ethyl 5-(2,4-dichloro-5-(pyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 128 mg, 21% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C(=C1)Cl)C1=NC=CC=C1 | C24H18Cl2N4O3
